US06919339B2
To a solution of 6-(chloromethyl-4-methylthio-1,3,5-triazine-2-ylamine (75 mg, 0.39 mmol) in dry tetrahydrofuran (3 mL) was added a solution of 3-chloroaniline (0.210 mL, 1.97 mmol) in dry tetrahydrofuran (1 mL) followed by anhydrous N,N-diisopropylethylamine (0.343 mL, 1.95 mmol). The mixture was heated under reflux for 16 hours, after which the solvent was evaporated. The residue was purified by reverse phase HPLC to give 4-[(3-chlorophenylamino)methyl]-6-methylthio-[1,3,5]triazin-2-ylamine. M+1=266.1.

reactant | chloromethyl-4-methylthio-1,3,5-triazine-2-ylamine | 0.39 mmol, 75 mg | ClCNC1=NC=NC(=N1)SC | C5H7ClN4S
reactant | 3-chloroaniline | 1.97 mmol, 0.210 mL | ClC=1C=C(N)C=CC1 | C6H6ClN
reactant | N,N-diisopropylethylamine | 1.95 mmol, 0.343 mL | C(C)(C)N(C(C)C)CC | C8H19N
solvent | tetrahydrofuran | 3 mL | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 1 mL | O1CCCC1 | C4H8O
product | 4-[(3-chlorophenylamino)methyl]-6-methylthio-[1,3,5]triazin-2-ylamine | ClC=1C=C(C=CC1)NCC1=NC(=NC(=N1)SC)N | C11H12ClN5S
